US08431563B2
2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.50 g, 1.5 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), tert-butyl (3S)-3-ethyl-1-piperazinecarboxylate hydrochloride (0.40 g, 1.9 mmol, Acesys Pharmatech, North Brunswick, N.J.), sodium tert-butoxide (0.36 g, 3.7 mmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.11 g, 0.23 mmol, Strem Chemical Inc, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (0) (0.080 g, 0.077 mmol, Strem Chemical Inc, Newburyport, Mass.), and toluene (3.1 mL) were added to a high-pressure reaction vessel. This mixture was sealed and heated at 100° C. for 29 h. After that time, the reaction mixture was allowed to cool to room temperature and then partitioned between EtOAc (25 mL) and saturated aqueous sodium bicarbonate (10 mL). The layers were separated, the organic material was washed sequentially with saturated aqueous sodium bicarbonate (15 mL) and brine (10 mL), dried (Na2SO4), filtered, and concentrated to give tert-butyl (3S)-3-ethyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate (0.71 g) as a brown solid. The material was used in the next step without purification.

reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.5 mmol, 0.50 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | tert-butyl (3S)-3-ethyl-1-piperazinecarboxylate hydrochloride | 1.9 mmol, 0.40 g | Cl.C(C)[C@H]1CN(CCN1)C(=O)OC(C)(C)C
reactant | sodium tert-butoxide | 3.7 mmol, 0.36 g | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.23 mmol, 0.11 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.077 mmol, 0.080 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 3.1 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3S)-3-ethyl-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | 0.71 g | C(C)[C@H]1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC(C)(C)C | C20H26F6N2O3
